US08497279B2
To a solution of 3-aminosulfonyl-4-methylnitrobenzene in dichloromethane and methanol was added 10% Pd/C and the mixture shaken under a hydrogen atmosphere at 50 psi for 15 minutes. The mixture was filtered through diatomaceous earth and the filter cake was washed with methanol. The combined organic solvents were concentrated under reduced pressure to give crude product, which was further purified by flash column chromatography (ethyl acetate:hexanes 1:1) to give 3-aminosulfonyl-4-methylaniline, LCMS: purity: 87%; MS (m/e): 187 (MH+).

reactant | 3-aminosulfonyl-4-methylnitrobenzene | NS(=O)(=O)C=1C=C(C=CC1C)[N+](=O)[O-] | C7H8N2O4S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-aminosulfonyl-4-methylaniline | NS(=O)(=O)C=1C=C(N)C=CC1C | C7H10N2O2S
